### PR TITLE
feat: use wider Fin types for AdditiveNTT

### PR DESCRIPTION
**Pull request by chung-thai-nguyen**
[x] Use (Fin r) in more places for Additive NTT to reduce ugly Fin types (e.g. Fin ((⟨i.val + x, by omega⟩ : Fin ℓ).val + y), ...) and typecheck burden

The loose-indexing migration removes the endpoint and index-defeq limitations of the strict API. In our one forced module-typecheck comparison, the migrated implementation of AdditiveNTT module compiled faster (8.26s vs 11.70s), similar boost also happens at the usage in the Binius formalization.

### CODE REVIEW

File: CompPoly/Fields/Binary/AdditiveNTT/Algorithm.lean [hunk 1]
```diff
@@ -31,366 +31,469 @@ variable (β : Fin r → L) [hβ_lin_indep : Fact (LinearIndependent 𝔽q β)]
...
+let `u_b_v := j.val` (as a natural number),
+- let `v := u_b_v % 2^i` (the `i` LSBs),
+- let `u_b := u_b_v / 2^i` (the high bits),
+- let `b := u_b % 2` (the LSB of the high bits),
+- let `u := u_b / 2` (the remaining high bits),
+then:
+  b j = P⁽ⁱ⁾(ω_{u, b, i})
+-/
 def additiveNTTInvariant (evaluation_buffer : Fin (2 ^ (ℓ + R_rate)) → L)
     (original_coeffs : Fin (2 ^ ℓ) → L) (i : Fin (ℓ + 1)) : Prop :=
```
Comment (dhsorens) [inline CompPoly/Fields/Binary/AdditiveNTT/Algorithm.lean]: **[suggestion]** `additiveNTTInvariant` still takes `i : Fin (ℓ + 1)` while almost every related definition (`evaluationPointω`, `coeffsBySuffix`, `intermediateEvaluationPoly`, `NTTStage`, …) was migrated to `i : Fin r` plus an explicit bound. Call sites therefore keep inserting `⟨i, by omega⟩` / `⟨i, by simp only; omega⟩` casts, which reintroduces some of the nested-Fin friction this PR aims to remove and leaves the public invariant API inconsistent with the rest of the module.

**Suggestion:** Migrate to `(i : Fin r) (h_i : i ≤ ℓ)` (matching `coeffsBySuffix` / `evaluationPointω`), or document why the invariant intentionally remains the one tight index. Prefer the former for consistency.

File: CompPoly/Fields/Binary/AdditiveNTT/Correctness.lean [hunk 2]
```diff
@@ -617,231 +620,267 @@ variable {ℓ R_rate : ℕ} (h_ℓ_add_R_rate : ℓ + R_rate < r)
 
 section AlgorithmCorrectness
 
-omit [DecidableEq 𝔽q] hF₂ in
 lemma initial_tiled_coeffs_correctness (h_ℓ : ℓ ≤ r) (a : Fin (2 ^ ℓ) → L) :
```
Comment (dhsorens) [inline CompPoly/Fields/Binary/AdditiveNTT/Correctness.lean:624]: **[suggestion]** Several correctness lemmas lost their `omit ... in` wrappers (e.g. `initial_tiled_coeffs_correctness` no longer omits `[DecidableEq 𝔽q] hF₂`; similar removals around `NTTStage_correctness`, `foldl_NTTStage_inductive_aux`, and `additiveNTT_correctness`). That keeps unused section typeclasses as parameters, which contradicts the project’s typeclass-minimization guidance and can inflate instance search at call sites.

**Suggestion:** Restore `omit` for hypotheses not used in each statement/proof (or switch to per-declaration minimal `variable` binders).

File: CompPoly/Fields/Binary/AdditiveNTT/Intermediate.lean [hunk 3]
```diff
@@ -587,178 +815,418 @@ lemma odd_index_intermediate_novel_basis_decomposition
...
+    (intermediateChangeOfBasisMatrix 𝔽q β h_ℓ_add_R_rate i h_i).det ≠ 0 := by
+  rw [Matrix.det_of_lowerTriangular]
+  · apply Finset.prod_ne_zero_iff.mpr
+    intro j hj_mem_univ
+    let res := intermediateChangeOfBasisMatrix_diag_ne_zero 𝔽q β h_ℓ_add_R_rate i h_i j
+    exact res
+  · exact intermediateChangeOfBasisMatrix_lower_triangular 𝔽q β h_ℓ_add_R_rate i h_i
+
+/-- The intermediate change-of-basis matrix is invertible. -/
+noncomputable instance intermediateChangeOfBasisMatrix_invertible (i : Fin r) (h_i : i ≤ ℓ) :
```
Comment (dhsorens) [inline CompPoly/Fields/Binary/AdditiveNTT/Intermediate.lean]: **[suggestion]** `intermediateChangeOfBasisMatrix_invertible` is declared as a parameterized `instance`. Global `Invertible` synthesis for matrix expressions can be expensive and surprising; project guidance prefers explicit constructions over broad instance search paths. This instance is only needed for `⅟A` in the nearby conversion defs.

**Suggestion:** Prefer a `def`/`theorem` (e.g. `intermediateChangeOfBasisMatrix_invertible … : Invertible _`) and pass it explicitly, or mark it carefully so it is not a broad TC candidate.

File: CompPoly/Fields/Binary/AdditiveNTT/Algorithm.lean [hunk 4]
```diff
@@ -31,366 +31,469 @@ variable (β : Fin r → L) [hβ_lin_indep : Fact (LinearIndependent 𝔽q β)]
...
-      (a := ℓ + R_rate - i - 1) (f := left_inner_func) (h := by omega)]
+    rw [←Fin.sum_congr' (b:=ℓ + R_rate - (i.val + 1))
+      (a:=ℓ + R_rate - i - 1) (f:=left_inner_func) (h:=by omega)]
     simp only [Fin.cast_eq_self]
   congr
   funext x1
-  have h_normalized_comp_qmap : normalizedW 𝔽q β ⟨i + 1, by omega⟩ =
-      (qMap 𝔽q β ⟨i, by omega⟩).comp (normalizedW 𝔽q β ⟨i, by omega⟩) := by
+--   `q⁽ⁱ⁾ ∘ Ŵᵢ = Ŵᵢ₊₁`. -/
+  have h_normalized_comp_qmap: normalizedW 𝔽q β ⟨i + 1, by omega⟩ =
```
Comment (dhsorens) [inline CompPoly/Fields/Binary/AdditiveNTT/Algorithm.lean]: **[suggestion]** After deliberately making `qMap` take `h_i_add_1 : i.val + 1 < r` to avoid modular `Fin` successor wrap-around, several nearby proofs still write indices as `⟨i + 1, by omega⟩` (Fin addition then coerced) rather than `⟨i.val + 1, by omega⟩`. Under the NTT bounds this is extensionally equal, but it is inconsistent with the Domain fix and is a footgun if a bound is ever relaxed.

**Suggestion:** Standardize successor indices on `i.val + 1` (as in `qMap`, `evenRefinement`, and many new call sites) and avoid bare `i + 1` at `Fin r`.

File: CompPoly/Fields/Binary/AdditiveNTT/Algorithm.lean [hunk 5]
```diff
@@ -31,366 +31,469 @@ variable (β : Fin r → L) [hβ_lin_indep : Fact (LinearIndependent 𝔽q β)]
...
+This section describes the construction of the evaluation points,
+the tiling of coefficients, the main loop invariant, and the final
+correctness theorem for the Additive NTT algorithm.
+-/
+
+/-- Constructs an evaluation point in `sDomain i` from its Nat.getBit representation.
+
+The index is loose (`i : Fin r`); `h_i` records that it is an Additive-NTT level.
+-/
+noncomputable def evaluationPointω (i : Fin r) (h_i : i ≤ ℓ)
```
Comment (dhsorens) [inline CompPoly/Fields/Binary/AdditiveNTT/Algorithm.lean:45]: **[suggestion]** Bound hypotheses such as `h_i` on `evaluationPointω` / `twiddleFactor` are part of the public API but are unused in the definition bodies (bounds are recovered from `i : Fin r` and `h_ℓ_add_R_rate` via `omega`). That is fine for documentation, but unused named binders often trip `unusedVariables` and obscure whether the bound is load-bearing.

**Suggestion:** Either use `h_i` in the critical `omega` proofs (so the bound is visibly necessary), or rename to `_h_i` / attach an autoParam if the intent is “caller must prove, def does not re-use”.

File: CompPoly/Fields/Binary/AdditiveNTT/Correctness.lean [hunk 6]
```diff
@@ -617,231 +620,267 @@ variable {ℓ R_rate : ℕ} (h_ℓ_add_R_rate : ℓ + R_rate < r)
...
+    (⟨↑j / 2 ^ i.val, by simp only; exact h_j_div_2_pow_i_lt⟩) -- ω_{u, b, i}
+  set cur_coeffs := coeffsBySuffix (R_rate:=R_rate) (r := r) original_coeffs
+    (i := ⟨i, by omega⟩) (h_i := by simp only; omega)
+    ⟨Nat.getLowBits i.val (↑j), by
+      exact Nat.getLowBits_lt_two_pow (numLowBits:=i.val)⟩ -- coeffs of P⁽ⁱ⁾ at j
+  -- identity (39): `P⁽ⁱ⁾(X) = P₀⁽ⁱ⁺¹⁾(q⁽ⁱ⁾(X)) + X ⋅ P₁⁽ⁱ⁺¹⁾(q⁽ⁱ⁾(X))`
   have h_P_i_split_even_odd := evaluation_poly_split_identity 𝔽q β h_ℓ_add_R_rate
-    ⟨i, by omega⟩ cur_coeffs
+    (i := ⟨i, by omega⟩) (h_i := by simp only; omega) cur_coeffs
   simp at h_P_i_split_even_odd
```
Comment (dhsorens) [inline CompPoly/Fields/Binary/AdditiveNTT/Correctness.lean]: **[nit]** Bare `simp at h_P_i_split_even_odd` remains in the core inductive step. Project style prefers `simp only [...]` to avoid pulling the full simp set into large kernel terms.

**Suggestion:** Replace with a targeted `simp only` of the lemmas actually needed to unfold the let-bound split identity.

File: CompPoly/Fields/Binary/AdditiveNTT/Intermediate.lean [hunk 7]
```diff
@@ -587,178 +815,418 @@ lemma odd_index_intermediate_novel_basis_decomposition
...
+          exact mul_two_add_bit_lt_two_pow x.val (ℓ-i-1) (ℓ-i) ⟨0, by omega⟩ (by omega) (by omega)
+        ⟩) := by
       intro x
       unfold f1
-      simp only
+      -- simp only
       have h_x_lt_2_pow_i_minus_1 :=
-        mul_two_add_bit_lt_two_pow x.val (ℓ - i - 1) (ℓ - i) ⟨0, by omega⟩ (by omega) (by omega)
+        mul_two_add_bit_lt_two_pow x.val (ℓ-i-1) (ℓ-i) ⟨0, by omega⟩ (by omega) (by omega)
       simp at h_x_lt_2_pow_i_minus_1
```
Comment (dhsorens) [inline CompPoly/Fields/Binary/AdditiveNTT/Intermediate.lean]: **[nit]** Bare `simp at h_x_lt_2_pow_i_minus_1` in `evaluation_poly_split_identity` (even-index branch); same style concern as above on a large, hot proof.

**Suggestion:** Use `simp only` with the specific lemmas that clear the inequality shape, or `omega` if that suffices after `have`.

File: CompPoly/Fields/Binary/AdditiveNTT/Correctness.lean [hunk 8]
```diff
@@ -851,247 +890,274 @@ lemma NTTStage_correctness (i : Fin (ℓ))
...
+      coeffsBySuffix (R_rate := R_rate) original_coeffs 0 h v = original_coeffs := by
+    intro h v
+    haveI : Subsingleton (Fin (2 ^ (0 : Fin r).val)) := by
+      rw [show (0 : Fin r).val = 0 from rfl, pow_zero]; infer_instance
+    have hv : v = 0 := Subsingleton.elim _ _
+    subst hv
+    exact base_coeffsBySuffix original_coeffs
+  simp only [hbase] at res
+  rw [← res]
+  congr! 5 with current_b i
```
Comment (dhsorens) [inline CompPoly/Fields/Binary/AdditiveNTT/Correctness.lean]: **[nit]** The final step of `additiveNTT_correctness` uses `congr! 5 with current_b i` then `omega` to identify fold stage indices `ℓ - 1 - i` vs `ℓ - i - 1`. It works, but the magic depth makes the proof brittle under small definitional refactors.

**Suggestion:** Factor a one-line lemma `ℓ - 1 - i = ℓ - i - 1` (or rewrite the fold to a single canonical expression) so the main theorem does not depend on `congr!` depth.

File: CompPoly/Fields/Binary/AdditiveNTT/Domain.lean [hunk 9]
```diff
@@ -62,14 +62,77 @@ noncomputable def sDomain (i : Fin r) : Subspace 𝔽q L :=
   Submodule.map (polyEvalLinearMap W_i_norm h_W_i_norm_is_additive)
     (U 𝔽q β ⟨ℓ + R_rate, h_ℓ_add_R_rate⟩)
 
-noncomputable def qMap (i : Fin r) : L[X] :=
+noncomputable def sDomain_cast {i j : Fin r} (h : i = j) :
```
Comment (dhsorens) [inline CompPoly/Fields/Binary/AdditiveNTT/Domain.lean]: **[nit]** `sDomain_cast`, `mem_sDomain_of_eq`, and `sDomain_eq_of_eq` are added for loose-index equality transport but have no in-repo uses yet. Harmless, but they add API surface without a call-site demonstrating intent.

**Suggestion:** Either use them to simplify nearby `rw!` / cast-heavy proofs (e.g. in Intermediate quotient lemmas), or defer until a caller needs them.

File: CompPoly/Fields/Binary/AdditiveNTT/Intermediate.lean [hunk 10]
```diff
@@ -587,178 +815,418 @@ lemma odd_index_intermediate_novel_basis_decomposition
...
+
+omit h_Fq_char_prime [DecidableEq L] [DecidableEq 𝔽q] h_β₀_eq_1 in
+/-- Round trip inverse property: Monomial -> Novel -> Monomial -/
+theorem monomialToINovel_iNovelToMonomial_inverse (i : Fin r) (h_i : i ≤ ℓ)
+    (coeffs : Fin (2 ^ (ℓ - i)) → L) :
+    iNovelToMonomialCoeffs 𝔽q β h_ℓ_add_R_rate i h_i
+      (monomialToINovelCoeffs 𝔽q β h_ℓ_add_R_rate i h_i coeffs) = coeffs := by
+  unfold monomialToINovelCoeffs iNovelToMonomialCoeffs
+  dsimp
+  let A := intermediateChangeOfBasisMatrix 𝔽q β h_ℓ_add_R_rate i
```
Comment (dhsorens) [inline CompPoly/Fields/Binary/AdditiveNTT/Intermediate.lean]: **[nit]** In `monomialToINovel_iNovelToMonomial_inverse` (and the sibling inverse at line 973), `let A := intermediateChangeOfBasisMatrix … i` is unused after `unfold`/`dsimp`. Dead bindings add noise and can hide missing arguments during refactors.

**Suggestion:** Delete the unused `let A` bindings; the `simp only` on `invOf`/`Invertible` already closes the goal.

**Review by dhsorens — CHANGES_REQUESTED** [review]
hey @chung-thai-nguyen ! thanks for this PR. could you please take care of the compiler warnings so it compiles cleanly? lots of unused hypotheses/proof arguments

File: CompPoly/Fields/Binary/AdditiveNTT/Algorithm.lean (hunk 1 above)
Comment (chung-thai-nguyen) [reply CompPoly/Fields/Binary/AdditiveNTT/Algorithm.lean]: Addressed. `additiveNTTInvariant` now takes `i : Fin r` with `h_i : i ≤ ℓ`, and its body passes that index directly to the related loose-index definitions.

File: CompPoly/Fields/Binary/AdditiveNTT/Correctness.lean (hunk 2 above)
Comment (chung-thai-nguyen) [reply CompPoly/Fields/Binary/AdditiveNTT/Correctness.lean:624]: Addressed. Restored the minimal `omit ... in` wrappers for the affected correctness lemmas, including the initial, stage, fold, and final correctness results.

File: CompPoly/Fields/Binary/AdditiveNTT/Intermediate.lean (hunk 3 above)
Comment (chung-thai-nguyen) [reply CompPoly/Fields/Binary/AdditiveNTT/Intermediate.lean]: Addressed. Replaced the global parameterized instance with `intermediateChangeOfBasisMatrix_invertible` as an explicit reducible definition, installed only via local `letI` where `⅟A` is needed.

File: CompPoly/Fields/Binary/AdditiveNTT/Algorithm.lean (hunk 4 above)
Comment (chung-thai-nguyen) [reply CompPoly/Fields/Binary/AdditiveNTT/Algorithm.lean]: Addressed. Successor indices in the affected Algorithm proofs now use `i.val + 1`; the fold stage expression is also standardized as `ℓ - i - 1`.

File: CompPoly/Fields/Binary/AdditiveNTT/Algorithm.lean (hunk 5 above)
Comment (chung-thai-nguyen) [reply CompPoly/Fields/Binary/AdditiveNTT/Algorithm.lean:45]: Addressed. The public bounds are now used in the critical index-bound proofs of `evaluationPointω` and `twiddleFactor`.

File: CompPoly/Fields/Binary/AdditiveNTT/Correctness.lean (hunk 6 above)
Comment (chung-thai-nguyen) [reply CompPoly/Fields/Binary/AdditiveNTT/Correctness.lean]: Addressed. Replaced the broad simplification with `simp only` in the inductive step.

File: CompPoly/Fields/Binary/AdditiveNTT/Intermediate.lean (hunk 7 above)
Comment (chung-thai-nguyen) [reply CompPoly/Fields/Binary/AdditiveNTT/Intermediate.lean]: Addressed. Replaced the broad simplification with the targeted `simp only [add_zero]`.

File: CompPoly/Fields/Binary/AdditiveNTT/Correctness.lean (hunk 8 above)
Comment (chung-thai-nguyen) [reply CompPoly/Fields/Binary/AdditiveNTT/Correctness.lean]: Addressed. Standardized the fold stage expression as `ℓ - i - 1` throughout the implementation and correctness proof, so the final `congr! 5` step is gone.

File: CompPoly/Fields/Binary/AdditiveNTT/Domain.lean (hunk 9 above)
Comment (chung-thai-nguyen) [reply CompPoly/Fields/Binary/AdditiveNTT/Domain.lean]: Addressed. Removed the unused equality-transport helper API from CompPoly; downstream consumers can introduce a local compatibility lemma if needed.

File: CompPoly/Fields/Binary/AdditiveNTT/Intermediate.lean (hunk 10 above)
Comment (chung-thai-nguyen) [reply CompPoly/Fields/Binary/AdditiveNTT/Intermediate.lean]: Addressed. Removed both unused `let A` bindings from the inverse proofs.

**Comment by chung-thai-nguyen** [comment]
Hi @dhsorens, thanks for the review. I have addressed the compiler-warning cleanup across `Domain`, `Intermediate`, `Algorithm`, `Impl`, and `Correctness`. The affected AdditiveNTT modules now typecheck without Lean warnings, and the style and whitespace checks pass.

**Review by dhsorens — APPROVED** [review]
looks good, thanks @chung-thai-nguyen !
